US07176242B2
Step 4: Methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate
To an ice-cold, stirred solution of methyl 4-amino-3-(butylamino)benzoate (950 mg) and sodium bicarbonate (862 mg) in 1:1 isobutyl methyl ketone/water (20 mL) was added chloroacetyl chloride (0.41 mL), and the mixture was stirred for 1 h. The mixture was warmed to room temperature and refluxed for 14 h. The mixture was cooled to room temperature, diluted with chloroform, and separated. The organic layer was washed with water, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:1 ethyl acetate/hexanes) afforded 850 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.89, 7.72, 6.80, 3.97, 3.88, 3.30–3.25, 1.68–1.58, 1.47–1.35, 0.94–0.88.

reactant | methyl 4-amino-3-(butylamino)benzoate | 950 mg | NC1=C(C=C(C(=O)OC)C=C1)NCCCC | C12H18N2O2
reactant | sodium bicarbonate | 862 mg | C([O-])(O)=O.[Na+]
reactant | isobutyl methyl ketone water | 20 mL | CC(=O)CC(C)C.O
reactant | chloroacetyl chloride | 0.41 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 850 mg | C(CCC)N1C(CNC2=CC=C(C=C12)C(=O)OC)=O | C14H18N2O3
